US04072685
A mixture of 8 g of 3-(3',4'-dimethoxyphenyl)-piperidine, 80 ml of benzene and 3.6 ml of acetic acid anhydride was stirred at 20° C for an hour and was then diluted with 100 ml of water. 500 ml of an aqueous solution saturated with sodium bicarbonate were added thereto and the mixture was stirred for an hour and then was decanted. The aqueous phase was re-extracted with ethyl acetate and the organic phases were washed with water, dried and evaporated to dryness. The residue was chromatographed over silica gel and was eluted with a 6-3-1 cyclohexane-chloroform-triethylamine mixture to obtain 6.75 g of N-acetyl-3-(3',4'-dimethoxyphenyl)-piperidine.

reactant | 3-(3',4'-dimethoxyphenyl)-piperidine | 8 g | COC=1C=C(C=CC1OC)C1CNCCC1 | C13H19NO2
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
reactant | acetic acid anhydride | 3.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | N-acetyl-3-(3',4'-dimethoxyphenyl)-piperidine | 6.75 g | C(C)(=O)N1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C15H21NO3
